US07666901B2
Preparation of [(11-Acetoxy-6,17-dihydroxy-1-methoxymethyl-10,13-dimethyl-3,7-dioxo-1,7,10,11,12,13,14,15,16,17-decahydro-2-oxa-cyclopenta[a]phenanthren-4-ylidenemethyl)-methyl-amino]-acetic acid tert-butyl ester
To a solution of 100 mg (0.23 mmol) 17-hydroxywortmannin and triethylamine (65 μL, 0.46 mmol) in 2 mL CH2Cl2 is added sarcosine tert butyl ester hydrochloride (84 mg, 0.46 mmol). The reaction mixture is stirred at room temperature for 12 hours and then concentrated in vacuo. The residue is dissolved in EtOAc and precipitated with hexane. The precipitate is washed two times with hexane to give the product as a yellow solid. MS (ESI) m/z 577 (M+H).

reactant | 17-hydroxywortmannin | 0.23 mmol, 100 mg | CC(=O)O[C@@H]1C[C@]2([C@@H](CC[C@@H]2O)C3=C1[C@@]4(C=5C(=COC5C3=O)C(=O)O[C@@H]4COC)C)C | C23H26O8
reactant | triethylamine | 0.46 mmol, 65 μL | C(C)N(CC)CC | C6H15N
reactant | sarcosine tert butyl ester hydrochloride | 0.46 mmol, 84 mg | Cl.C(C)(C)(C)OC(CNC)=O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | [(11-Acetoxy-6,17-dihydroxy-1-methoxymethyl-10,13-dimethyl-3,7-dioxo-1,7,10,11,12,13,14,15,16,17-decahydro-2-oxa-cyclopenta[a]phenanthren-4-ylidenemethyl)-methyl-amino]-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN(C)C=C1C(OC(C2(C=3C(CC4(C(CCC4C3C(C(=C12)O)=O)O)C)OC(C)=O)C)COC)=O)=O | C30H41NO10
